US04847260
A mixture of 10 g of nicotinic acid (0.08 mol), 25 g of thionyl chloride (0.21 mol), 1.5 ml of dimethylformamide and 200 ml of benzene was refluxed in an eggplant type flask for 3 hours. The solvent was removed by distillation. To the residue were added 20.8 g (0.16 mol) of 2-ethylhexyl alcohol and benzene, and the mixture was refluxed for 4 hours. The reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate. The benzene layer was separated, washed successively with a saturated sodium bicarbonate aqueous solution, water and a saturated sodium chloride aqueous solution, dried over sodium sulfate and distilled to remove the solvent. The residue was purified by distillation under reduced pressure and column chromatography to obtain 9.1 g (70%) of 2-ethylhexyl nicotinate.

reactant | nicotinic acid | 0.08 mol, 10 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | thionyl chloride | 0.21 mol, 25 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-ethylhexyl alcohol | 0.16 mol, 20.8 g | C(C)C(CO)CCCC | C8H18O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 2-ethylhexyl nicotinate | 9.1 g, 70% | C(C1=CN=CC=C1)(=O)OCC(CCCC)CC | C14H21NO2
